US06362203B1
In 50 mL of anhydrous ether was dissolved 500 mg (0.9 mmol) of 4-(4-hydroxy-4-(2-(3-hydroxyhexyloxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide (Compound No. 35). To the resulting solution was added 0.4 mL of a 4N solution of hydrochloric acid and dioxane under ice cooling and stirring. The white precipitate thus formed was collected by filtration, washed with ether and dried, whereby 460 mg (yield: 86.3%) of 4-(4-hydroxy-4-(2-(6-hydroxyhexyloxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide hydrochloride (Compound No. 37) was obtained.

reactant | 4-(4-hydroxy-4-(2-(3-hydroxyhexyloxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide | 0.9 mmol, 500 mg | OC1(CCN(CC1)CCC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)OCCC(CCC)O | C35H46N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-(4-hydroxy-4-(2-(6-hydroxyhexyloxy)phenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide hydrochloride | 460 mg, yield: 86.3% | Cl.OC1(CCN(CC1)CCC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)OCCCCCCO | InChI=1S/C35H46N2O4.ClH/c1-36(2)33(39)35(29-15-7-5-8-16-29,30-17-9-6-10-18-30)23-26-37-24-21-34(40,22-25-37)31-19-11-12-20-32(31)41-28-14-4-3-13-27-38;/h5-12,15-20,38,40H,3-4,13-14,21-28H2,1-2H3;1H
